US06596460B2
Preparation of 4-azido benzaldehyde
50 g 4-fluoro benzaldehyde and 50 g sodium azide were dispersed in 150 ml dry dimethyl sulfoxide. Subsequently, the mixture was heated for 3 hours at 105° C. while nitrogen was introduced. The mixture was poured into 200 ml water, and the solution extracted with 200 ml dichloro methane (three times). Then the solvent was distilled off by means of a vacuum rotation vaporizer. 53 g of a liquid remained having infrared (IR) and nuclear magnetic resonance (NMR) spectra consistent with the 4-azido benzaldehyde structure.

reactant | 4-fluoro benzaldehyde | 50 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | sodium azide | 50 g | [N-]=[N+]=[N-].[Na+]
reactant | water | 200 ml | O | H2O
solvent | dimethyl sulfoxide | 150 ml | CS(=O)C | C2H6OS
product | 4-azido benzaldehyde | N(=[N+]=[N-])C1=CC=C(C=O)C=C1 | C7H5N3O
